US04451469
3-Cyano-4,6-di-n-propyl-2(1H)-pyridinone was prepared as follows: A mixture containing 15.6 g of 4,6-nonanedione, 200 ml of methanol, 10 g of cyanoacetamide and 6 g of sodium methoxide was refluxed with stirring for 22 hours and then stripped to dryness in vacuo. The residue was dissolved in 100 ml of water and the solution acidified with acetic acid. The white precipitate was collected, washed with water, air-dried, recrystallized from isopropyl alcohol-n-hexane and dried in vacuo at 80°-85° C. to produce 16.7 g of 3-cyano-4,6-di-n-propyl-2(1H)-pyridinone, m.p. 151°-152° C.

reactant | 4,6-nonanedione | 15.6 g | CCCC(CC(CCC)=O)=O | C9H16O2
reactant | methanol | 200 ml | CO | CH4O
reactant | cyanoacetamide | 10 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | 6 g | C[O-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-cyano-4,6-di-n-propyl-2(1H)-pyridinone | 16.7 g | C(#N)C=1C(NC(=CC1CCC)CCC)=O | C12H16N2O
